US03953430
Preparation of 4,9-Dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
To a suspension of 0.40 g. of 1,3,4,9-tetrahydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one in 3 ml. of dry pyridine is added, in portions, a total of 0.21 g. of N-chlorosuccinimide. The resulting solution is heated on a steam bath for 15 minutes, cooled and diluted with water. The solid which separates is collected and recrystallized from methanol to give yellow crystals, m.p. 260°-262°C.

reactant | 1,3,4,9-tetrahydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C2=C(C(NC3=C1C=C(C(=C3)C)C)=O)CSC2 | C14H16N2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | water | O | H2O
product | 4,9-Dihydro-4,6,7-trimethyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=C(C(=C3)C)C)=O)=CSC2 | C14H14N2OS
